US07872031B2
To a solution of tert-butyl 4-hydroxy-4-(thiophen-2-yl)piperidine-1-carboxylate (6.0 g, 21.2 mmol) in 1,2-dichloroethane at 0° C. was added ZnI2 (10.15 g, 31.8 mmol) in portions. The reaction mixture was stirred for 30 minutes, followed by the addition of NaCNBH3 (2.0 g, 31.8 mmol) in portions. The reaction mixture was slowly warmed to RT and stirred for 2 hours. The reaction was quenched with ice, extracted with CH2Cl2 (2×50 mL), washed with brine solution, dried (Na2SO4), filtered, and concentrated to obtain tert-butyl 4-(thiophen-2-yl)piperidine-1-carboxylate, which was used as is for subsequent reactions without further purification.

reactant | tert-butyl 4-hydroxy-4-(thiophen-2-yl)piperidine-1-carboxylate | 21.2 mmol, 6.0 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1SC=CC1 | C14H21NO3S
reactant | NaCNBH3 | 31.8 mmol, 2.0 g | [BH3-]C#N.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | ZnI2 | 31.8 mmol, 10.15 g | [Zn+2].[I-].[I-]
product | tert-butyl 4-(thiophen-2-yl)piperidine-1-carboxylate | S1C(=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H21NO2S
